US03950528
3-Amino-1-(2-trifluoromethylbenzyl)-pyrazol-5-one ##SPC46##
46 g of 2-trifluoromethylbenzylhydrazine were added dropwise, under nitrogen, to a solution of 38.2 g of β-amino-β-ethoxyacrylic acid ethyl ester and 2 g of p-toluenesulphonic acid in 250 ml of ethanol. After stirring overnight, the solvent was distilled off in vacuo and the residue was recrystallised from ethanol. The product was the compound identified above. Melting point: 184°, 22 g (34%).

reactant | 2-trifluoromethylbenzylhydrazine | 46 g | FC(C1=C(CNN)C=CC=C1)(F)F | C8H9F3N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 38.2 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-Amino-1-(2-trifluoromethylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC=C1)C(F)(F)F | C11H10F3N3O
